US06635657B1
Preparation of 4-(4-tert-Butylbenzoylamino)-N-(5-chloropyridin-2-yl)isophthalamic Acid
Into 5 mL MeOH was dissolved 91 mg (0.195 mmol) 2-(4-tert-butylbenzoylamino)-N-(5-chloropyridin-2-yl)-5-methoxycarbonylbenzamide, followed by 0.47 mL of 0.5 N (0.23 mmol) NaOH. The mixture was stirred 16 h, evaporated, diluted with 39.0 mL water, and extracted with 15 mL EtOAc-15 mL hexane mixture. The aquous layer was acidified with dilute HCl and extracted with 30 mL EtOH. The organic layer was dried (MgSO4) and evaporated, giving 43 mg (.49%) title compound.

reactant | 2-(4-tert-butylbenzoylamino)-N-(5-chloropyridin-2-yl)-5-methoxycarbonylbenzamide | 0.195 mmol, 91 mg | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=C(C=C2)C(=O)OC)C=C1 | C25H24ClN3O4
reactant | NaOH | 0.23 mmol, 0.5 N | [OH-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | 4-(4-tert-Butylbenzoylamino)-N-(5-chloropyridin-2-yl)isophthalamic Acid | 43 mg, .49% | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C=C(C(=O)O)C=C2)C(=O)NC2=NC=C(C=C2)Cl)C=C1 | C24H22ClN3O4
